US08138187B2
3-(2-(4-(Dimethylamino)-4-phenylcyclohexyl)-1H-indol-3-yl)propan-1-ol hydrochloride, polar diastereomer (Ex. 183)
3-(2-(4-(Dimethylamino)-4-phenylcyclohexyl)-1H-indol-3-yl)propan-1-ol (polar diastereomer) (130 mg, 0.35 mmol) was dissolved in ethyl acetate (15 ml). Me3SiCl (88 μl, 0.7 mmol) was then added dropwise at RT and the mixture was stirred for 1 h. A white precipitate precipitated out. The precipitate was filtered off with suction, washed with ethyl acetate (2×5 ml) and then dried. Example 183 (125 mg, m.p. 210-214° C., 87%, NMR purity <95%) was a white solid.

reactant | 3-(2-(4-(Dimethylamino)-4-phenylcyclohexyl)-1H-indol-3-yl)propan-1-ol | 0.35 mmol, 130 mg | CN(C1(CCC(CC1)C=1NC2=CC=CC=C2C1CCCO)C1=CC=CC=C1)C | C25H32N2O
reactant | Me3SiCl | 0.7 mmol, 88 μl | [Si](C)(C)(C)Cl | C3H9ClSi
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | 3-(2-(4-(Dimethylamino)-4-phenylcyclohexyl)-1H-indol-3-yl)propan-1-ol hydrochloride | Cl.CN(C1(CCC(CC1)C=1NC2=CC=CC=C2C1CCCO)C1=CC=CC=C1)C | InChI=1S/C25H32N2O.ClH/c1-27(2)25(20-9-4-3-5-10-20)16-14-19(15-17-25)24-22(12-8-18-28)21-11-6-7-13-23(21)26-24;/h3-7,9-11,13,19,26,28H,8,12,14-18H2,1-2H3;1H
